* SPICE3 file created from sky130_inv.ext - technology: sky130A

.option scale=0.01u
.include ./libs/pshort.lib
.include ./libs/nshort.lib

.subckt sky130_inv A Y VPWR VGND
M0 Y A VGND VGND nshort_model.0 ad=1.44n pd=0.152m as=1.37n ps=0.148m w=35 l=23
M1 Y A VPWR VPWR pshort_model.0 ad=1.44n pd=0.152m as=1.52n ps=0.156m w=37 l=23
C0 Y VPWR 0.117f
C1 Y A 0.0754f
C2 A VPWR 0.0774f
C3 Y VGND 0.279f
C4 A VGND 0.45f
C5 VPWR VGND 0.781f
.ends

VDD VPWR 0 3.3V
VSS VGND 0 0V
Va A 0 pulse(0 3.3V 0 0.1n 0.1n 2n 4n)

Xinv1 A Y VPWR VGND sky130_inv

.tran 1n 20n
.control
run
.endc
